### PR TITLE
[Merged by Bors] - feat(NumberField/Cyclotomic): splitting of the prime `p` in the `p^k`-th cyclotomic field

### PR DESCRIPTION
**Pull request by xroblot**
The prime ideal above the prime `p` in the `p^k`-th cyclotomic field is totally  ramified. 

---

### CODE REVIEW

File: Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean [hunk 1]
```diff
@@ -59,6 +59,24 @@ theorem associated_pow_sub_one_pow_of_coprime (hζ : IsPrimitiveRoot ζ n)
     grind [Associated.trans, Associated.symm]
   exact hζ.associated_sub_one_pow_sub_one_of_coprime
 
+/-- Given an `n`-th primitive root of unity `ζ`, we have that `ζ - 1` is associated to any of its
+  conjugate. -/
+theorem associated_sub_one_map_sub_one {n : ℕ} [NeZero n] {R : Type*} [CommRing R] [Algebra R A]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean]: Can you put `{R : Type*} [CommRing R] [Algebra R A]` in a `variable` line? Maybe at the beginning of the file.

File: Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean [hunk 2]
```diff
@@ -59,6 +59,24 @@ theorem associated_pow_sub_one_pow_of_coprime (hζ : IsPrimitiveRoot ζ n)
...
+    (hζ : IsPrimitiveRoot ζ n) (σ : A ≃ₐ[R] A) : Associated (ζ - 1) (σ (ζ - 1)) := by
+  rw [map_sub, map_one, ← hζ.autToPow_spec R σ]
+  apply hζ.associated_sub_one_pow_sub_one_of_coprime
+  exact ZMod.val_coe_unit_coprime ((autToPow R hζ) σ)
+
+/-- Given an `n`-th primitive root of unity `ζ`, we have that two conjugates of `ζ - 1`
+  are associated. -/
+theorem associated_map_sub_one_map_sub_one {n : ℕ} [NeZero n] {R : Type*} [CommRing R] [Algebra R A]
+    (hζ : IsPrimitiveRoot ζ n) {σ τ : A ≃ₐ[R] A} :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean]:
```suggestion
    (hζ : IsPrimitiveRoot ζ n) (σ τ : A ≃ₐ[R] A) :
```

File: Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean [hunk 3]
```diff
@@ -59,6 +59,24 @@ theorem associated_pow_sub_one_pow_of_coprime (hζ : IsPrimitiveRoot ζ n)
...
+    Associated (σ (ζ - 1)) (τ (ζ - 1)) := by
+  rw [map_sub, map_sub, map_one, map_one, ← hζ.autToPow_spec R σ, ← hζ.autToPow_spec R τ]
+  apply hζ.associated_pow_sub_one_pow_of_coprime
+  · exact ZMod.val_coe_unit_coprime ((autToPow R hζ) τ)
+  · exact ZMod.val_coe_unit_coprime ((autToPow R hζ) σ)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean]:
```suggestion
  apply hζ.associated_pow_sub_one_pow_of_coprime <;>
  exact ZMod.val_coe_unit_coprime ((autToPow R hζ) _)
```
Untested.

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+theorem associated_norm_zeta_sub_one : Associated (Algebra.norm ℤ (hζ.toInteger - 1)) (p : ℤ) := by
+  by_cases h : p = 2
+  · cases k with
+  | zero =>
+    rw [h, zero_add, pow_one] at hK hζ
+    rw [hζ.norm_toInteger_sub_one_of_eq_two, h, Int.ofNat_two, Associated.neg_left_iff]
+  | succ n =>
+    rw [h, add_assoc, show 1 + 1 = 2 by rfl] at hK hζ
+    rw [hζ.norm_toInteger_sub_one_of_eq_two_pow, h, Int.ofNat_two]
+  · rw [hζ.norm_toInteger_sub_one_of_prime_ne_two h]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean:53]:
```suggestion
theorem associated_norm_zeta_sub_one : Associated (Algebra.norm ℤ (hζ.toInteger - 1)) (p : ℤ) := by
  by_cases h : p = 2
  · cases k with
    | zero =>
      rw [h, zero_add, pow_one] at hK hζ
      rw [hζ.norm_toInteger_sub_one_of_eq_two, h, Int.ofNat_two, Associated.neg_left_iff]
    | succ n =>
      rw [h, add_assoc, show 1 + 1 = 2 by rfl] at hK hζ
      rw [hζ.norm_toInteger_sub_one_of_eq_two_pow, h, Int.ofNat_two]
  · rw [hζ.norm_toInteger_sub_one_of_prime_ne_two h]
```
Just changing the indentation.

**Review by riccardobrasca — COMMENTED** [review]
@erdOne do you know it there are plans to add a `IsTotallyRamified` predicate?

**Comment by erdOne** [comment]
I'm not aware of any.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
